US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3-nitrophenyl)-2-propen-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol), 3-nitrobenzaldehyde (96 mg, 0.633 mmol), methanol (5 ml) and saturated NaOH (50 ul). The mixture was diluted with water (5 ml). The resulting yellow precipitate was collected by filtration, wash with water and dried under vacuum to give yellow solid (129 mg, 45%). 1H NMR (CDCl3): 8.48 (s, 1H), 8.28-8.24 (m, 1H), 7.91 (d, J=7.8 Hz, 1H), 7.74 (d, J=15.9 Hz, 1H), 7.61 (d, J=16.2 Hz, 1H), 7.60 (d, J=7.8 Hz, 1H), 7.36 (d, J=3.0 Hz, 1H), 7.18 (dd, J=3.3, 9.0 Hz, 1H), 6.96 (d, J=9.0 Hz, 1H), 4.49-4.36 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 3-nitrobenzaldehyde | 0.633 mmol, 96 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methanol | 5 ml | CO | CH4O
reactant | NaOH | 50 ul | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3-nitrophenyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O)(F)F | C19H13F6NO5
